US09315458B2
C) methyl 4-ethyl-2-hydroxybenzoate
To a solution of methyl 2-hydroxy-4-vinylbenzoate (2.31 g) in ethanol (25.0 mL) was added palladium-carbon (1.38 g), and the mixture was stirred overnight at room temperature under hydrogen atmosphere. The insoluble substance was removed by filtration, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by NH silica gel column chromatography (ethyl acetate/hexane) to give the title compound (1.43 g).

reactant | methyl 2-hydroxy-4-vinylbenzoate | 2.31 g | OC1=C(C(=O)OC)C=CC(=C1)C=C | C10H10O3
solvent | ethanol | 25.0 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 1.38 g | [C].[Pd]
product | methyl 4-ethyl-2-hydroxybenzoate | 1.43 g | C(C)C1=CC(=C(C(=O)OC)C=C1)O | C10H12O3
